US06759101B2
5. 5-(5,5,6,6,7,7,8,8,8-Nonafluoro-octyloxy)-2-(4-oct-7-enyloxy-phenyl)-pyrimidine
A suspension of 8-bromo-1-octene (1.00 g, 5.24 mmol), 4-[5-(5,5,6,6,7,7,8,8,8-nonafluorooctyloxy)-pyrimidin-2-yl]-phenol (2.54 g, 5.50 mmol) and cesium carbonate (3.40 g, 10.47 mmol) in acetone (40 ml) was heated under reflux for 12 h, cooled to room temperature, washed with water and the organic layer extracted into ethyl acetate/hexane (3 times). The combined organic extracts were washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residues were purified by column chromatography [silica gel, eluted with hexane/ethyl acetate (9:1)] to yield a colorless solid, which was recrystallized from ethanol.

reactant | 8-bromo-1-octene | 5.24 mmol, 1.00 g | BrCCCCCCC=C | C8H15Br
reactant | 4-[5-(5,5,6,6,7,7,8,8,8-nonafluorooctyloxy)-pyrimidin-2-yl]-phenol | 5.50 mmol, 2.54 g | FC(CCCCOC=1C=NC(=NC1)C1=CC=C(C=C1)O)(C(C(C(F)(F)F)(F)F)(F)F)F | C18H15F9N2O2
reactant | cesium carbonate | 10.47 mmol, 3.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 5-(5,5,6,6,7,7,8,8,8-Nonafluoro-octyloxy)-2-(4-oct-7-enyloxy-phenyl)-pyrimidine | FC(CCCCOC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCC=C)(C(C(C(F)(F)F)(F)F)(F)F)F | C26H29F9N2O2
